US08133882B2
To 0.31 g of 7-(cyclohexylamino)-6-fluoro-4-oxo-1-pyrrolidin-3-yl-1,4-dihydroquinoline-3-carbonitrile hydrochloride were added 5 ml of ethanol, 0.2 ml of concentrated hydrochloric acid and 0.10 g of platinum oxide, followed by overnight stirring in an atmosphere of hydrogen. After adding water, celite filtration was carried out and the solvent was evaporated under a reduced pressure. By purifying the resulting residue by an ODS column chromatography, 256 mg of 3-(aminomethyl)-7-(cyclohexylamino)-6-fluoro-1-pyrrolidin-3-ylquinolin-4(1H)-one hydrochloride was obtained.

reactant | 7-(cyclohexylamino)-6-fluoro-4-oxo-1-pyrrolidin-3-yl-1,4-dihydroquinoline-3-carbonitrile hydrochloride | 0.31 g | Cl.C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CNCC1)C#N)=O)F
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | platinum oxide | 0.10 g | [Pt]=O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-(aminomethyl)-7-(cyclohexylamino)-6-fluoro-1-pyrrolidin-3-ylquinolin-4(1H)-one hydrochloride | 256 mg | Cl.NCC1=CN(C2=CC(=C(C=C2C1=O)F)NC1CCCCC1)C1CNCC1 | InChI=1S/C20H27FN4O.ClH/c21-17-8-16-19(9-18(17)24-14-4-2-1-3-5-14)25(15-6-7-23-11-15)12-13(10-22)20(16)26;/h8-9,12,14-15,23-24H,1-7,10-11,22H2;1H
